US07482341B2
Step A]: N-(6-Cyclopropylmethoxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide
N-(6-Hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (1.04 g, Papadopoulou,; J. Heterocycl. Chem., 32, 1995, 675) in DMF (25 mL) was treated with sodium hydride (0.64 g, 60% suspension in oil), the mixture was then stirred for 1 h at RT, bromomethyl cyclopropane (0.688 g) was added dropwise and stirring was continued for further 1.75 h. The reaction mixture was partitioned between 2 M aqueous KHCO3 and AcOEt, the layers were separated, the aqueous layer extracted twice with AcOEt. The combined organic layers were washed with saturated aqueous NaCl and water, dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography (heptane/AcOEt 100% to 50%) to N-(6-cyclopropylmethoxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.884 g) as a yellow oil. MS (ESI): 263.2 (MH+).

reactant | N-(6-Hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 1.04 g | OCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C11H16N2O2
reactant | sodium hydride | 0.64 g | [H-].[Na+]
reactant | bromomethyl cyclopropane | 0.688 g | BrCC1CC1 | C4H7Br
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-(6-Cyclopropylmethoxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | C1(CC1)COCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C15H22N2O2
